US04521426
Part C: Preparation of 1-(2-[1-Naphthoxy]-5-pyridyl-3-(2,6-difluorobenzoyl) urea
A mixture of 2.5 g. of 2-(1-naphthoxy)-5-amino pyridine and 8.13 ml. of toluene was heated up to 50° C. To this resulting homgeneous solution was added a solution of 3.1 g. of 2,6-difluorobenzoyl isocyanate in 2 ml. of toluene. The resulting mixture was heated at 80° for 1.5 hours, cooled, and filtered to give 4.7 g. of white crystals; mp. 223.5°-224.0°.

reactant | 2-(1-naphthoxy)-5-amino pyridine | C1(=CC=CC2=CC=CC=C12)OC1=NC=C(C=C1)N | C15H12N2O
reactant | 2,6-difluorobenzoyl isocyanate | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[1-Naphthoxy]-5-pyridyl-3-(2,6-difluorobenzoyl) urea | C1(=CC=CC2=CC=CC=C12)OC1=NC=C(C=C1)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C23H15F2N3O3
